US04329347
5-(2-Hydroxy-3-phenylmercapto-propoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 59 from 5-(2,3-epoxy-propoxy)-3,4-dihydro-carbostyril and thiophenol.

reactant | 5-(2,3-epoxy-propoxy)-3,4-dihydro-carbostyril | O1C(COC2=C3CCC(NC3=CC=C2)=O)C1 | C12H13NO3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 5-(2-Hydroxy-3-phenylmercapto-propoxy)-3,4-dihydro-carbostyril | OC(COC1=C2CCC(NC2=CC=C1)=O)CSC1=CC=CC=C1 | C18H19NO3S
